US07888352B2
To a solution of (5-bromo-pyridin-2-yl)-methanol (300 mg) in dichloromethane (20 mL) was added imidazole (217 mg) and tert-butyldiphenylsilyl chloride (0.41 mL) and the reaction stirred at room temperature for 16 h. the reaction was quenched with water (20 mL) and extracted into dichloromethane (2×30 mL). The organic layers were dried (MgSO4) and reduced in vacuo to give 5-bromo-2-(tert-butyl-diphenylsilanyloxymethyl)-pyridine as an oil.

reactant | (5-bromo-pyridin-2-yl)-methanol | 300 mg | BrC=1C=CC(=NC1)CO | C6H6BrNO
reactant | imidazole | 217 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 0.41 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-bromo-2-(tert-butyl-diphenylsilanyloxymethyl)-pyridine | BrC=1C=CC(=NC1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C22H24BrNOSi
